US08049015B2
3-(Benzylamino-methyl)-4-bromo-benzoic acid ethyl ester (5.0 g, 12.9 mmol) and diisopropylethylamine (6.7 mL, 38.7 mmol) were combined in CH2Cl2 (100 mL) at room temperature. Cyclopropanecarbonyl chloride (1.77 mL, 19.4 mmol) was added dropwise, and the reaction was stirred at room temperature until no starting material was seen by analytical LCMS. The mixture was worked-up and purified by silica gel chromatography to give 3-[(N-benzyl-N-cyclopropanecarbonyl-amino)-methyl]-4-bromo-benzoic acid ethyl ester.

reactant | 3-(Benzylamino-methyl)-4-bromo-benzoic acid ethyl ester | 12.9 mmol, 5.0 g | C(C)OC(C1=CC(=C(C=C1)Br)CNCC1=CC=CC=C1)=O | C17H18BrNO2
reactant | diisopropylethylamine | 38.7 mmol, 6.7 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Cyclopropanecarbonyl chloride | 19.4 mmol, 1.77 mL | C1(CC1)C(=O)Cl | C4H5ClO
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 3-[(N-benzyl-N-cyclopropanecarbonyl-amino)-methyl]-4-bromo-benzoic acid ethyl ester | C(C)OC(C1=CC(=C(C=C1)Br)CN(C(=O)C1CC1)CC1=CC=CC=C1)=O | C21H22BrNO3
